US04877792
4-Methoxymethyl-5-(2-pyrazinyloxy)- β-carboline-3-carboxylic Acid Ethyl Ester
A solution of 300 mg of 5-hydroxy-4-methoxy-methyl-β-carboline-3-carboxylic acid ethyl ester in 3 ml of dry dimethyl sulfoxide is combined with 155 mg of K2CO3 and stirred under nitrogen at room temperature for 30 minutes. After adding 0.2 ml of 2-chloropyrazine, the mixture is agitated for 6 hours at 95° C., then poured into 1N acetic acid and extracted with ethyl acetate. Purification over silica gel yields 242 mg (64%), mp 130°-131° C. (diethyl ether).

reactant | 5-hydroxy-4-methoxy-methyl-β-carboline-3-carboxylic acid ethyl ester | 300 mg | C(C)OC(=O)C=1N=C(C=2NC3=CC=CC(=C3C2C1OC)O)C | C16H16N2O4
reactant | K2CO3 | 155 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloropyrazine | 0.2 ml | ClC1=NC=CN=C1 | C4H3ClN2
reactant | acetic acid | 1N | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 4-Methoxymethyl-5-(2-pyrazinyloxy)- β-carboline-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)OC1=NC=CN=C1 | C20H18N4O4
